US07498337B2
3-fluoro-2-(2-methylphenyl)-1H-pyrrole
To a solution (20 mL) of 2,2-difluoro-4-iodo-1-(2-methylphenyl)-4-trimethylsilylbutan-1-one (2.5 g) in tetrahydrofuran was added 28% aqueous ammonia solution (6 mL) and the mixture was stirred at room temperature for 14 hr. The reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in acetonitrile (15 mL) and water (8 mL), and potassium fluoride (0.75 g) was added. The reaction mixture was stirred at 60° C. for 3 hr, and concentrated under reduced pressure. The residue was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=20:1) to give the title compound as a pale-yellow oil (yield 0.87 g, 78%).

reactant | 2,2-difluoro-4-iodo-1-(2-methylphenyl)-4-trimethylsilylbutan-1-one | 20 mL, 2.5 g | FC(C(=O)C1=C(C=CC=C1)C)(CC([Si](C)(C)C)I)F | C14H19F2IOSi
reactant | ammonia | 6 mL | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-fluoro-2-(2-methylphenyl)-1H-pyrrole | yield 0.87 g, 78% | FC1=C(NC=C1)C1=C(C=CC=C1)C | C11H10FN
